US04555263
Diethyl malonate (7.3 g; 45.4 mmole) was added to a solution of sodium metal (1.0 g; 42.9 mmole) in anhydrous absolute ethanol (100 ml). 1-(4-Methylthiophenyl)but-1-en-3-one (9.0 g; 43.7 mmole) was added to the solution and the mixture was heated under reflux, under nitrogen, with stirring for a period of 4 hours. An aqueous solution of potassium hydroxide (5.3 g in 30 ml of water) was added and the mixture was heated under reflux for a further 4 hours. The solution was poured into water, acidified with dilute aqueous hydrochloric acid and extracted with ethyl acetate. The organic phase was extracted with an aqueous 10% sodium hydroxide solution, the aqueous extract was acidified with dilute aqueous hydrochloric acid extracted with ethyl acetate. The organic phase was washed with with water, dried over anhydrous sodium sulfate and the solvent was evaporated to give 3-hydroxy-5-(4-methylthiophenyl)cyclohex-2-en-1-one (7.6 g) as a yellow crystalline solid, mp 199° C.

reactant | Diethyl malonate | 45.4 mmole, 7.3 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium | 42.9 mmole, 1.0 g | [Na] | Na
reactant | 1-(4-Methylthiophenyl)but-1-en-3-one | 43.7 mmole, 9.0 g | CSC1=CC=C(C=C1)C=CC(C)=O | C11H12OS
reactant | potassium hydroxide | 30 ml, 5.3 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-hydroxy-5-(4-methylthiophenyl)cyclohex-2-en-1-one | 7.6 g | OC1=CC(CC(C1)C1=CC=C(C=C1)SC)=O | C13H14O2S
